datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Si:63]1(C)CCCC[CH:11]([H:10])[CH2:62]1>>C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Si:63]1(C)CCCC[CH+:11][CH2:62]1 10,11=10,20"
"C1CC[N:12]([C:11]2=[CH:10]CCC2)CC1.C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1>>C1CC[N+:12](=[C:11]2CCC[CH:10]2[CH:20]2CC[O:33][C:22]([O-:23])=[CH:21]2)CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.C[C:10](C)=[C:11]([O:12][Si:73](C)(C)C)[O:62]C>>C[C:10](C)([C:11](=[O+:12][Si:73](C)(C)C)[O:62]C)[C:20]([O-:21])=[N:31]C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[H:10][CH:11]([CH:12]=[CH2:13])[CH:62]=[CH2:63]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[CH:11](=[CH:12][CH2+:13])[CH:62]=[CH2:63] 10,11=10,20;12,13=11,12"
CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.C[C:61]([O-:10])=[O:62]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([O:10][C:61](C)=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10=20
"F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33].[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[N:63]2>>F[C:20]1([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[N:63]3)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCO1.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]1)(=[O:62])=[O:72]>>FC(F)(F)[S:61]([CH:10]([C:20]1([O-:21])CCOCC1)[C:81]1=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]1)(=[O:62])=[O:72] 10=20;20,21=21"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C([N+](=O)[O-])C=C2)[C:72](=[O:73])[O:83]1.F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21]>>CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)([C:20]2([O-:21])[C:31](F)=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41]2F)[C:72](=[O:73])[O:83]1 10=20;20,21=21"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCCC1)=[O:62].COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1>>CC[O:72][C:61]([C:10]1([CH:20]([CH:21]=[C:22](C2=[N+](C3=C(OC)C=CC=C3OC)C=CN2C)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.CC1(C)C(C)(C)[O:74][B:63]([CH2:62][CH:11]=[CH2:10])[O:64]1>>CC1(C)C(C)(C)[O:74][B:63]([CH2:62][CH+:11][CH2:10][CH:20]2[CH:21]=[C:22](C3=CC=CC=C3)[O:23][C:32]3=[C:31]2C=CC=C3)[O:64]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]([F:62])([F:72])[F:82])O1.[CH2:20]=[CH:21][C:22]#[N:23]>>CC1=CC=[C:10]([CH2:20][CH:21]=[C:22]=[N-:23])O1.[B:11]([F:62])([F:72])[F:82] 10,11=10,20;20,21=21,22;22,23=23"
"CCCC[CH:11]=[CH2:10].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CCCC[CH+:11][CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]1 10,11=10,20"
"CC[O:82][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CC[O:82][C:71]([CH:10]([N+:11](=[O:12])[O-:62])[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1C(C)(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:72] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCC[Si:11](CCCC)(CCCC)[H:10].F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>CCCC[Si+:11](CCCC)CCCC.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C:20]([H:10])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1 10,11=10,20"
C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.Cl[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([S-:10])=[CH:62]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([S:10][C:61]2=[CH:62][C:63](Cl)=[CH:64][CH:73]=[CH:72]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
